US08729102B2
B) 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)isoxazole-5-carboxylic acid
2M Aqueous sodium hydroxide solution (20 mL) was added to a solution of methyl 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)isoxazole-5-carboxylate (4.0 g) in THF/methanol (20 mL/20 mL), and the mixture was stirred at room temperature for 15 hr. The solvent was evaporated under reduced pressure, and the residue was neutralized with 6M hydrochloric acid and extracted with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (3.5 g).

reactant | sodium hydroxide | 2M, 20 mL | [OH-].[Na+]
reactant | methyl 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)isoxazole-5-carboxylate | 4.0 g | C(C)(C)(C)OC(=O)N[C@H](COC1=NOC(=C1)C(=O)OC)C | C13H20N2O6
solvent | THF methanol | 20 mL | C1CCOC1.CO
product | 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)isoxazole-5-carboxylic acid | 3.5 g | C(C)(C)(C)OC(=O)N[C@H](COC1=NOC(=C1)C(=O)O)C | C12H18N2O6
